US08193228B2
Methylmagnesium bromide (3 M in diethyl ether) (ca. 15 μL, 0.04 mmol) was added to a 0° C. solution of 4-(2,2-dimethylpropyl)-2-{fluoro[4-(5-fluoropyridin-2-yl)phenyl]acetyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide (10 mg, 0.02 mmol) in tetrahydrofuran (3 mL). After warming slowly to ambient temperature, the reaction was quenched with a few drops of water and concentrated in vacuo. Chromatography over silica eluting with 0-50% ethyl acetate/hexane afforded 4-(2,2-dimethylpropyl)-2-{2-fluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]-1-hydroxy-1-methylethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide.

reactant | Methylmagnesium bromide | 0.04 mmol, 3 M, ca. 15 μL | C[Mg]Br
reactant | 4-(2,2-dimethylpropyl)-2-{fluoro[4-(5-fluoropyridin-2-yl)phenyl]acetyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | 0.02 mmol, 10 mg | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(C(C1=CC=C(C=C1)C1=NC=C(C=C1)F)F)=O)(C)C | C23H26F2N4O3S
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 4-(2,2-dimethylpropyl)-2-{2-fluoro-2-[4-(5-fluoropyridin-2-yl)phenyl]-1-hydroxy-1-methylethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(C(C1=CC=C(C=C1)C1=NC=C(C=C1)F)F)(C)O)(C)C | C24H30F2N4O3S
